US08664230B2
To a suspension of 6-chloro-3-nitropicolinonitrile (2.54 g, 13.8 mmol) in water (27.0 mL) was added NH4OH (5.61 mL, 36.0 mmol) at room temperature. After stirring for 20 min at room temperature, Na2S2O4 (13.7 g, 79.0 mmol) was added to the mixture. After stirring for 3 hours at room temperature, the reaction mixture was filtered, and washed with water. The filtercake was dried under vacuum to give 3-amino-6-chloropicolinamide (1.67 g, 70%) as a yellow solid. 1H-NMR (CDCl3, Varian 400 MHz) δ 5.36 (1H, brs), 6.00 (2H, brs), 7.00 (1H, d, J=8.8 Hz), 7.18 (1H, d, J=8.8 Hz), 7.63 (1H, brs).

reactant | 6-chloro-3-nitropicolinonitrile | 13.8 mmol, 2.54 g | ClC1=CC=C(C(=N1)C#N)[N+](=O)[O-] | C6H2ClN3O2
reactant | NH4OH | 36.0 mmol, 5.61 mL | [NH4+].[OH-]
reactant | Na2S2O4 | 79.0 mmol, 13.7 g | [O-]S(=O)S(=O)[O-].[Na+].[Na+]
solvent | water | 27.0 mL | O | H2O
product | 3-amino-6-chloropicolinamide | 1.67 g, 70% | NC=1C(=NC(=CC1)Cl)C(=O)N | C6H6ClN3O
